US08071766B2
2L Synthesis of (R)—O-(2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethyl)hydroxylamine (2X)
The title compound was prepared using the procedure described for Example 2K by using (R)-2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol (4.28 mL, 30 mmol), CH2Cl2 (100 mL), 2-hydroxyisoindolin-1,3-dione (4.9 g, 30 mmol), triphenylphosphine (11.8 g, 45 mmol), diisopropylazodicarboxylate (8.8 ml, 45 mmol) and hydrazine hydrate (6.0 mL, 60 mmol) to afford 2.1 g (43%, over two steps) of (R)—O-(2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethyl)hydroxylamine (2×) as a pale yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.13 (s, 3H), 1.18 (s, 3H), 1.53-1.71 (m, 2H), 3.53 (m, 2H), 3.79-3.89 (m, 1H), 3.89-4.01 (m, 1H), 4.63-4.81 (m, 1H). MS (ES) [M+H] calculated for C7H16NO3, 162.11. found 162.0.

reactant | (R)-2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | 30 mmol, 4.28 mL | CC1(OC[C@H](O1)CCO)C | C7H14O3
reactant | 2-hydroxyisoindolin-1,3-dione | 30 mmol, 4.9 g | ON1C(C2=CC=CC=C2C1=O)=O | C8H5NO3
reactant | triphenylphosphine | 45 mmol, 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 45 mmol, 8.8 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | hydrazine hydrate | 60 mmol, 6.0 mL | O.NN
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)—O-(2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethyl)hydroxylamine | 2.1 g, 43% | CC1(OC[C@H](O1)CCON)C | C7H15NO3
